US08629271B2
a) 2-(5-(Bromomethyl)-2-(trifluoromethyl)phenyl)ethanol
Benzoyl peroxide (0.085 g) was added to a suspension of 2-(5-methyl-2-(trifluoromethyl)phenyl)acetic acid (1.12 g) and N-bromosuccinimide (1.101 g) in chlorobenzene (18 mL), and the resulting mixture was heated at 100° C. under nitrogen for 80 minutes, then allowed to cool. The resulting mixture was diluted with ethyl acetate, washed three times with water, once with brine, then dried (MgSO4), filtered and concentrated in vacuo to give a yellow oil. The oil was dissolved in tetrahydrofuran (11 mL) and treated with a 2 molar solution of borane-methyl sulfide complex in THF (5.1 mL), portionwise over 2 minutes. The resulting mixture was stirred at room temperature overnight, then cooled in ice-water and quenched by the addition of methanol. The effervescing mixture was removed from the cooling bath, stirred at room temperature for 70 minutes, then concentrated in vacuo. The residue was purified by flash chromatography on silica eluted with 15% ethyl acetate in isohexane to afford the crude product as a yellow oil. Yield 0.919 g.

reactant | Benzoyl peroxide | 0.085 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | 2-(5-methyl-2-(trifluoromethyl)phenyl)acetic acid | 1.12 g | CC=1C=CC(=C(C1)CC(=O)O)C(F)(F)F | C10H9F3O2
reactant | N-bromosuccinimide | 1.101 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | chlorobenzene | 18 mL | ClC1=CC=CC=C1 | C6H5Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 11 mL | O1CCCC1 | C4H8O
solvent | THF | 5.1 mL | C1CCOC1 | C4H8O
product | 2-(5-(Bromomethyl)-2-(trifluoromethyl)phenyl)ethanol | BrCC=1C=CC(=C(C1)CCO)C(F)(F)F | C10H10BrF3O
